US08071581B2
Compound 144: 2-{4-[6-(6-Methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinolin-3-yl]pyrazol-1-yl}-ethanol
To a microwave vessel was added 3-bromo-6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline (80 mg, 0.23 mmol, 1 equiv), bis(pinacol)borane (69 mg, 0.27 mmol, 1.2 equiv), potassium acetate (66 mg, 0.67 mmol, 3.0 equiv) followed by dimethylacetamide (0.8 mL). The solution was degassed for 10 min and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (7 mg, 0.01 mmol, 0.048 equiv added. The microwave vessel was capped and reacted in a microwave reactor at 120° C. for 1 hour. The microwave vessel was cooled and then 2-(4-bromo-pyrazol-1-yl)-ethanol (0.18 mmol, 0.8 equiv) dissolved in dimethylacetamide (0.6 mL) was added, followed by 2 M aqueous sodium carbonate (0.6 mL). The solution was degassed for 10 min and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (7 mg, 0.01 mmol, 0.048 equiv) added. The microwave vessel was capped and reacted in a microwave reactor at 120° C. for 2 hours. After cooling, Na2SO4 (3 g) was added and the mixture diluted with acetonitrile and filtered through a pad of celite. The filtrate was concentrated onto silica gel and purified by either flash chromatography (SiO2, CH2Cl2:CH3OH 100:0-80:20) or preparative HPLC to return the title compound. Analytical data presented in Table 2.

reactant | 3-bromo-6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline | 0.23 mmol, 80 mg, 1 equiv | BrC=1C=NC2=CC=C(C=C2C1)CC1=NN=C2N1N=C(C=C2)C | C16H12BrN5
reactant | potassium acetate | 0.67 mmol, 66 mg, 3.0 equiv | C(C)(=O)[O-].[K+]
reactant | 2-(4-bromo-pyrazol-1-yl)-ethanol | 0.18 mmol, 0.8 equiv | BrC=1C=NN(C1)CCO | C5H7BrN2O
reactant | sodium carbonate | 2 M, 0.6 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | Na2SO4 | 3 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | dimethylacetamide | 0.6 mL | CC(=O)N(C)C | C4H9NO
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.01 mmol, 7 mg, 0.048 equiv | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | dimethylacetamide | 0.8 mL | CC(=O)N(C)C | C4H9NO
product | 2-{4-[6-(6-Methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinolin-3-yl]pyrazol-1-yl}-ethanol | CC=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=C(C=NC1=CC2)C=2C=NN(C2)CCO | C21H19N7O
